US07276606B2
(3-Bromo-phenyl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone was prepared from phenanthridine, 3-bromobenzoyl chloride, and indole according to GP 2. Yield, 22%. 1H-NMR (DMSO-d6): δ=6.22 (d, J=1.9 Hz, 1H), 6.41 (s, br., 1H), 6.86 (t, J=7.5 Hz, 1H), 6.99-7.28 (m, 7H), 7.40-7.48 (m, 2H), 7.51-7.60 (m, 3H), 7.84 (“d”, J=7 Hz, 1H), 7.98 (dd, J=7.9 Hz, J=1.1 Hz, 1H), 8.12 (d, J=7.5 Hz, 1H), 10.71 (s, 1H); (+)-ESI-MS: m/z=479 [M(79Br)+H]+, 362[M(79Br)-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 3-bromobenzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | (3-Bromo-phenyl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone | BrC=1C=C(C=CC1)C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12 | C28H19BrN2O
